US07955852B2
A heavy-walled screw-cap tube was charged with 3-methyl-2-butenoic acid (13.86 gm) 3,3-dimethylacrylic acid, (138.4 mmol), 4-methoxythiophenol (143.2 mmol), and piperidine (41.6 mmol) [Aldrich]. The mixture was heated to 105-110° C. for 32 hours, then cooled to room temperature. The reaction mixture was dissolved in ethyl acetate (EtOAc) (700 ml) with stirring, and the resulting solution was washed with 1M aqueous HCl (50 ml×2), water (50 ml), and saturated aqueous NaCl (50 ml). The organic solution was thereafter dried over NaSO4. Concentration of this organic solution under reduced pressure afforded an oil and 2 days incubation at −20° C. yielded a crystalline solid. Forty ml of pentane were added to the solid, which was then crushed and filtered. The solid was washed on filter paper with pentane (20 ml, 2 times) to yield the product 3-(4-methoxyphenylthio)-3-methyl-butyric acid, as pale yellow crystals (31.4 grams, 94.4% yield, m.p. 62-64° C.), [1H-NMR(CDCl3): d7.5 (t, 2H, J=8 Hz), d6.9 (t, 2H, J=6.7 Hz), d3.9 (s, 3H, J=16.1 Hz), d2.6 (s, 2H), d1.3 (s, 6H)].

reactant | 3-methyl-2-butenoic acid | 138.4 mmol, 13.86 gm | CC(=CC(=O)O)C | C5H8O2
reactant | 4-methoxythiophenol | 143.2 mmol | COC1=CC=C(C=C1)S | C7H8OS
reactant | piperidine | 41.6 mmol | N1CCCCC1 | C5H11N
reactant | pentane | Forty ml | CCCCC | C5H12
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-methoxyphenylthio)-3-methyl-butyric acid | COC1=CC=C(C=C1)SC(CC(=O)O)(C)C | C12H16O3S
